US07612054B2
b) [(S*)-2-(3-Benzyloxy-phenyl)-1-((S*)-5-oxo-2,5-dihydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester
5H-Furan-2-one (11.2 ml, 160 mmol, 2 eq) in THF (60 ml) is added slowly to a solution of lithium diisopropylamide (80 ml commercial 2M solution in THF/heptane/ethylbenzene, 160 mmol, 2 eq) in THF (180 ml) at −78° C. The mixture is stirred for another 20 min at −78° C. before [1-Benzenesulfonyl-2-(4-benzyloxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (37.3 g, 80 mmol) in THF (220 ml) is added at the same temperature. After stirring for another 45 min at −78° C. aqueous bicarbonate solution is added and the reaction mixture is taken up into EtOAc. The organic layer is washed with bicarbonate and brine and dried over magnesium sulfate. Evaporation of the solvent gives a residue that is purified by chromatography on silica using hexan/EtOAc 9/1 to 7/3. The product is recrystallized from ether/hexane to give the product as white crystals (11.1 g)

reactant | 5H-Furan-2-one | 160 mmol, 11.2 ml, 2 eq | O1C(C=CC1)=O | C4H4O2
reactant | lithium diisopropylamide | 160 mmol, 2M, 80 ml, 2 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | [1-Benzenesulfonyl-2-(4-benzyloxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 80 mmol, 37.3 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C26H29NO5S
reactant | bicarbonate | C([O-])(O)=O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | THF | 180 ml | C1CCOC1 | C4H8O
reactant | THF | 220 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [(S*)-2-(3-Benzyloxy-phenyl)-1-((S*)-5-oxo-2,5-dihydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester | 11.1 g | C(C)(C)(C)OC(N[C@@H](CC1=CC(=CC=C1)OCC1=CC=CC=C1)[C@H]1OC(C=C1)=O)=O | C24H27NO5
